US07939533B2
(2S,4R)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[3-chloro-6′-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-[2,4′]bipyridinyl-3′-yl]-N-methyl-isobutyramide
To a solution of 0.500 g (2.09 mmol) 3-chloro-2-iodo-pyridine in 6 ml tetrahydrofuran 1.04 ml (2.09 mmol) of a 2 M solution of isopropylmagnesium chloride in tetrahydrofuran was added dropwise at −40° C. under an atmosphere of argon. After 30 min. 2.3 ml (4.2 mmol) of an anhydrous 1.8 M solution of zinc chloride in tetrahydrofuran was added slowly. The cooling bath was removed after completed addition, and the reaction mixture was stirred at room temperature for 90 min. A portion of 1.6 ml of this solution was added to a solution of 0.15 g (0.24 mmol) (2S,4R)-2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-4-iodo-pyridin-3-yl]-N-methyl-isobutyramide and 14 mg (0.012 mmol) tetrakis(triphenylphosphine)palladium(0) in 1 ml tetrahydrofuran. The mixture was heated at 100° C. under microwave irradiation for 30 min. After cooling to room temperature a 0.5 M solution of sodium hydroxide was added, and the mixture was extracted with three portions of dichloromethane. The combined organic layers were dried over sodium sulfate and concentrated in vacuo. Flash column chromatography gave 58 mg (40%) of the title compound as a light yellow solid.

reactant | 3-chloro-2-iodo-pyridine | 2.09 mmol, 0.500 g | ClC=1C(=NC=CC1)I | C5H3ClIN
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | (2S,4R)-2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-4-iodo-pyridin-3-yl]-N-methyl-isobutyramide | 0.24 mmol, 0.15 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1I)N1[C@@H](C[C@H](C1)O)CO)(C)C)(F)F | C23H24F6IN3O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.012 mmol, 14 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 2.09 mmol, 6 ml | O1CCCC1 | C4H8O
product | (2S,4R)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[3-chloro-6′-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-[2,4′]bipyridinyl-3′-yl]-N-methyl-isobutyramide | 58 mg, 40% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=NC=CC=C1Cl)N1[C@@H](C[C@H](C1)O)CO)(C)C)(F)F | C28H27ClF6N4O3
